US09428528B2
Step 1 Preparation of 2,2-dichloro-1-((4S,5R)-4-(fluoromethyl)-5-(4-(6-(hydroxymethyl)pyridin-3-yl)phenyl)-2,2-dimethyloxazolidin-3-yl)ethanone
Following the general procedure of Example 1—Step 1 and making non-critical variations but using 2,2-dichloro-1-((4S,5R)-4-(fluoromethyl)-5-(4-iodophenyl)-2,2-dimethyloxazolidin-3-yl)ethanone and (6-(hydroxymethyl)pyridin-3-yl)boronic acid as starting materials the title compound is obtained (800 mg): m/z (CI) M−H 426.1.

reactant | 2,2-dichloro-1-((4S,5R)-4-(fluoromethyl)-5-(4-iodophenyl)-2,2-dimethyloxazolidin-3-yl)ethanone | ClC(C(=O)N1C(O[C@@H]([C@H]1CF)C1=CC=C(C=C1)I)(C)C)Cl | C14H15Cl2FINO2
reactant | (6-(hydroxymethyl)pyridin-3-yl)boronic acid | OCC1=CC=C(C=N1)B(O)O | C6H8BNO3
product | 2,2-dichloro-1-((4S,5R)-4-(fluoromethyl)-5-(4-(6-(hydroxymethyl)pyridin-3-yl)phenyl)-2,2-dimethyloxazolidin-3-yl)ethanone | ClC(C(=O)N1C(O[C@@H]([C@H]1CF)C1=CC=C(C=C1)C=1C=NC(=CC1)CO)(C)C)Cl | C20H21Cl2FN2O3
